US08071584B2
Methyl 4-{[2-(methyloxy)-2-oxoethyl]thio}butanoate
Sodium (3.5 g, 0.15 mol) was added to methanol (150 mL) carefully. After cooling to room temperature, methyl 2-mercaptoacetate (15.6 g, 0.13 mol) was added. The mixture was stirred for 30 mins at room temperature and a little of NaI and methyl 4-chlorobutanoate (20.0 g, 0.15 mol) were added. The reaction mixture was refluxed over night. After cooling to room temperature, the solvent was removed under reduced pressure, then the residue was dissolved in CH2Cl2 (100 mL). The solution was washed with H2O (30 mL), brine (30 mL), and dried with Na2SO4. After removing the solvent, 28.3 g of the crude product was obtained (Yield: 94%).

reactant | Sodium | 0.15 mol, 3.5 g | [Na] | Na
reactant | methyl 2-mercaptoacetate | 0.13 mol, 15.6 g | SCC(=O)OC | C3H6O2S
reactant | NaI | [Na+].[I-]
reactant | methyl 4-chlorobutanoate | 0.15 mol, 20.0 g | ClCCCC(=O)OC | C5H9ClO2
solvent | methanol | 150 mL | CO | CH4O
product | Methyl 4-{[2-(methyloxy)-2-oxoethyl]thio}butanoate | 28.3 g, Yield: 94% | COC(CSCCCC(=O)OC)=O | C8H14O4S
